US07776857B2
In a 5 mL sealed tube, was dissolved 4-chloro-N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine (0.100 g, 0.224 mmol) in iPrOH (0.500 mL). To this was added cesium carbonate (0.110 g, 0.336 mmol) and the mixture was irradiated for 30 min at 140° C. in the microwave. When the reaction was determined to be complete by LC/MS, it was concentrated. The mixture concentrate was purified using Isco silica gel chromatography, using 0-100% CH2Cl2:MeOH(90:10)/CH2Cl2, followed by reverse phase chromatography (Gilson, 10-90% TFA/acetonitrile in water over 15 min). The product-containing fractions were extracted into DCM, washed 1× sodium carbonate, 1×H2O, dried with Na2SO4, filtered through fritted funnel, and concentrated to yield 4-isopropoxy-N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine as a light yellow solid. MS [M+H]+=470.0; Calc'd=469.6 for C26H23N5O2S

reactant | 4-chloro-N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine | 0.224 mmol, 0.100 g | ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC1=CC=NC2=CC(=CN=C12)OC | C23H16ClN5OS
reactant | cesium carbonate | 0.336 mmol, 0.110 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iPrOH | 0.500 mL | CC(C)O | C3H8O
product | 4-isopropoxy-N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine | C(C)(C)OC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC1=CC=NC2=CC(=CN=C12)OC | C26H23N5O2S
